US04806685
4'-Chloro-2,2,2-trifluoroacetophenone (R. Fuchs, J. Org. Chem. 22, 993-994 (1957)) is reacted with benzyl-triphenylphosphonium chloride in the presence of an ethanolic solution of sodium ethoxide. The product is crystallized from hexane. 1-Phenyl-3,3,3-trifluoro-2-(4-chlorophenyl)-propene is obtained with a yield of 68%; m.p.: 63-66° C.

reactant | 4'-Chloro-2,2,2-trifluoroacetophenone | ClC1=CC=C(C=C1)C(C(F)(F)F)=O | C8H4ClF3O
reactant | sodium ethoxide | [O-]CC.[Na+]
catalyst | benzyl-triphenylphosphonium chloride | [Cl-].C(C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 1-Phenyl-3,3,3-trifluoro-2-(4-chlorophenyl)-propene | yield of 68% | C1(=CC=CC=C1)C=C(C(F)(F)F)C1=CC=C(C=C1)Cl | C15H10ClF3
